US04645765
6,9-Dihydroxy-8-methylene-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde (5 mg) was dissolved in methanol (2 ml), and the solution was subjected to catalytic reduction for 120 minutes using 10% palladium on carbon in hydrogen gas under atmospheric pressure at room temperature. The reaction mixture was filtered and the filtrate was evaporated to dryness to give an oily residue of 4-hydroxymethyl-8-methyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-6,9-diol. This oil was dissolved in pyridine (1 ml) and to this solution was added acetic anhydride (20 μl), followed by allowing to stand at room temperature overnight. The resultant mixture was evaporated to dryness to give an oil, which was subjected to preparative thin layer chromatography. Development was carried out with a mixture of methanol and chloroform (5:95, v/v) to afford 4-acetoxymethyl-11-acetyl-9-hydroxy-8-methyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl acetate (3 mg).

reactant | 6,9-Dihydroxy-8-methylene-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde | 5 mg | OC=1C=C(C=C2N3CC4NC4C(C(C12)=C)(O3)O)C=O | C13H12N2O4
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | 4-hydroxymethyl-8-methyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-6,9-diol | OCC=1C=C2N3CC4NC4C(C(C2=C(C1)O)C)(O3)O | C13H16N2O4
